US04382892
A mixture of 3 g (15.7 mmols) of 3-chloro-2-fluoro-6-nitrophenol, 3 ml of chloroacetone and 300 mg of potassium iodide in 50 ml of acetone was refluxed for 6 hours while vigorously stirring. After cooling, any insoluble substance was removed by filtration, and the filtrate was concentrated and purified by silica gel (20 g) column chromatography using chloroform as an eluant to provide 2.5 g (54.5% yield) of 2-acetonyloxy-4-chloro-3-fluoronitrobenzene as an oil.

reactant | 3-chloro-2-fluoro-6-nitrophenol | 15.7 mmols, 3 g | ClC=1C(=C(C(=CC1)[N+](=O)[O-])O)F | C6H3ClFNO3
reactant | chloroacetone | 3 ml | ClCC(C)=O | C3H5ClO
reactant | potassium iodide | 300 mg | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-acetonyloxy-4-chloro-3-fluoronitrobenzene | 2.5 g, 54.5% yield | C(C(=O)C)OC1=C(C=CC(=C1F)Cl)[N+](=O)[O-] | C9H7ClFNO4
